US07714010B2
d) 2,2,2-Trifluoro-N-(1′-methyl-6′-nitro-2′-oxo-spiro[cyclopropane-1,3′-indole]-5′-yl)-acetamide
To a solution of 2,2,2-trifluoro-N-(1′-methyl-2′-oxo-spiro[cyclopropane-1,3′-indole]-5′-yl)-acetamide (2 g) in acetic acid (20 ml) at 15° C. is added nitric acid (fuming, 0.8 ml) over a period of 3 min. The mixture is stirred at this temperature for 1 h and then diluted with water. The aqueous layer is extracted with EtOAc. The combined organic layer is washed with water, saturated K2CO3 solution and brine, dried over MgSO4 and evaporated. The compound (2.25 g) is obtained as a brown semi-solid.

reactant | 2,2,2-trifluoro-N-(1′-methyl-2′-oxo-spiro[cyclopropane-1,3′-indole]-5′-yl)-acetamide | 2 g | FC(C(=O)NC=1C=C2C3(C(N(C2=CC1)C)=O)CC3)(F)F | C13H11F3N2O2
reactant | nitric acid | 0.8 ml | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 2,2,2-Trifluoro-N-(1′-methyl-6′-nitro-2′-oxo-spiro[cyclopropane-1,3′-indole]-5′-yl)-acetamide | 2.25 g | FC(C(=O)NC=1C=C2C3(C(N(C2=CC1[N+](=O)[O-])C)=O)CC3)(F)F | C13H10F3N3O4
